US07601742B2
5.1 Preparation of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1-{3-[(tetrahydrofuran-3-ylmethyl)amino]phenyl}-pyrrolidin-2-one according to General Procedure X
A mixture of 1-(3-aminophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-pyrrolidin-2-one (8 mg, 0.02 mmol), (tetrahydrofuran-3-yl)-acetaldehyde (0.024 mmol), NaB(OAc)3H (0.2 mmol), and AcOH (0.06 mmol) in DMF (0.5 mL) was stirred for 20 h. After concentration under reduced pressure, the residue was dissolved in EtOAc (3 mL), washed with brine (2×3 mL), and dried over Na2SO4. Concentration and chromatography on silica gel (EtOAc:Hexane=1:1) gave 5.2 mg of the desired product. Yield: 57%.

reactant | 1-(3-aminophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-pyrrolidin-2-one | 0.02 mmol, 8 mg | NC=1C=C(C=CC1)N1C(CC(C1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C22H26N2O3
reactant | (tetrahydrofuran-3-yl)-acetaldehyde | 0.024 mmol | O1CC(CC1)CC=O | C6H10O2
reactant | NaB(OAc)3H | 0.2 mmol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 0.06 mmol | CC(=O)O | C2H4O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1-{3-[(tetrahydrofuran-3-ylmethyl)amino]phenyl}-pyrrolidin-2-one | 5.2 mg, Yield: 57% | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(C1)C1=CC(=CC=C1)NCC1COCC1)=O | C27H34N2O4
